US04110533
A solution of 250 mg (0.5 mmol) of 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 2 ml of methanol/tetrahydrofurane, 1:1, is added to a mixture of 5% palladium/charcoal in 2 ml of the same solvent, which mixture has been prehydrogenated for one hour under atmospheric pressure, and the reaction mixture is hydrogenated for 3 hours at room temperature and under atmospheric pressure. After this time, about 90% of the calculated amount of hydrogen has been taken up. The catalyst is filtered off and the filtrate is evaporated in vacuo. The residue is taken up in 10 ml of methylene chloride and extracted with twice 10 ml of 5% strength aqueous sodium bicarbonate solution. The combined bicarbonate extracts are neutralised at 0° C with dilute hydrochloric acid and extracted with 3 times 10 ml of methylene chloride. The organic phase is dried over sodium sulphate and freed from the solvent in vacuo. After crystallisation from chloroform/pentane, the residue gives 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid of melting point 173°-174° C.

reactant | 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 0.5 mmol, 250 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OC)C=C1 | C23H21N3O8S
reactant | hydrogen | [H][H] | H2
solvent | methanol tetrahydrofurane | 2 ml | CO.O1CCCC1
catalyst | palladium/charcoal | [Pd] | Pd
product | 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C16H16N2O6S
